US06284889B1
5-Diethylamino-2-nitrosophenol hydrochloride
0.1 mol of 3-diethylaminophenol are dissolved in 50 ml of n-propanol saturated with gaseous hydrogen chloride and, at 0° C., admixed dropwise and with stirring with 0.1 mol of isoamyl nitrite. Stirring is continued for another hour and the reaction solution is then admixed with diethyl ether, and the product which is formed is isolated by filtration with suction.

reactant | 3-diethylaminophenol | 0.1 mol | C(C)N(C=1C=C(C=CC1)O)CC | C10H15NO
reactant | isoamyl nitrite | 0.1 mol | N(=O)OCCC(C)C | C5H11NO2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | n-propanol | 50 ml | C(CC)O | C3H8O
product | 5-Diethylamino-2-nitrosophenol hydrochloride | Cl.C(C)N(C=1C=CC(=C(C1)O)N=O)CC | InChI=1S/C10H14N2O2.ClH/c1-3-12(4-2)8-5-6-9(11-14)10(13)7-8;/h5-7,13H,3-4H2,1-2H3;1H
